US07550598B2
(Z)—N-(4-(2-(3-ethyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide
The title compound was prepared from (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-ethyl-1H-pyrazol-5(4H)-one and 4-acetamidothiophenol using the procedure described in Example 6. 1H NMR (400 MHz, DMSO-D6) δ ppm 0.82 (t, J=7.45 Hz, 3H) 2.06-2.16 (s, 3H) 2.17-2.25 (m, 2H) 6.63 (s, 1H) 7.57 (t, J=7.96 Hz, 1H) 7.67 (d, J=8.59 Hz, 2H) 7.78-7.89 (m, 4H) 8.08 (d, J=8.34 Hz, 1H) 10.32 (s, 1H); ESI-MS: m/z calc'd for C22H20N4O2S 404.13. found 405.2 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-ethyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CC | C14H12ClN3O
reactant | 4-acetamidothiophenol | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
product | (Z)—N-(4-(2-(3-ethyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide | C(C)C/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NC(C)=O)=O | C22H20N4O2S
